US09107898B2
Desmethyldoxepin is prepared according to the following method. Anhydrous 3-methylaminopropyltriphenylphosphonium bromide hydrobromide (1530 g) prepared as in U.S. Pat. No. 3,509,175, is suspended in 4.5 L dry tetrahydrofuran and 6.0 moles of butyl lithium in heptane is added during 1 hour. After an additional 30 minutes, 483 g of 6,11-dihydrodibenz[b,e]oxepin-11-one, is added to the deep red solution and the reaction is maintained at reflux for 10 hours. Water, 500 mL, is added at room temperature and the solvent is removed in vacuo. The crude residue is treated with 10% hydrochloric acid until acidic (pH 2) and then 1.5 L benzene is added. After stiffing, the mixture separates into three phases (an insoluble hydrochloride salt product phase, an aqueous phase and an organic phase). The benzene layer is removed by decantation and the remaining mixture is rendered basic with 10% sodium hydroxide solution and is extracted with 3×1500 mL portions of benzene. The benzene extracts are washed, then dried with anhydrous sodium sulfate and concentrated in a vacuum leaving a solid residue of desmethyldoxepin.

reactant | 3-methylaminopropyltriphenylphosphonium bromide hydrobromide | 1530 g | Br.[Br-].CNCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyl lithium | 6.0 moles | C(CCC)[Li]
reactant | 6,11-dihydrodibenz[b,e]oxepin-11-one | 483 g | C1=CC=CC=2OCC3=C(C(C21)=O)C=CC=C3 | C14H10O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 4.5 L | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | desmethyldoxepin | CNCC/C=C/1\C2=CC=CC=C2COC3=CC=CC=C31 | C18H19NO
